US07951810B2
Step b: {(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl acetate
[(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate (369 mg, 0.00100 mol) and tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.000050 mol) were dissolved in tetrahydrofuran (10 mL) at room temperature under nitrogen. 0.5 M of 4-fluorobenzylzinc chloride in tetrahydrofuran (3 mL) was added dropwise over 10 min. The solution was stirred under nitrogen at room temperature for 15 min then heated at 60° C. for 3 h. The reaction was allowed to cool to r.t then poured on saturated NH4Cl (10 mL). Saturated Na2EDTA (10 mL) was added and the solution extracted three times with EtOAc. The organics were pooled and extracted twice with saturated Na2EDTA then once with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (DCM/EtOAc 10% to 50%) to obtain the product (322 mg, 73%) as an oil.

reactant | [(3aR,4R,6R,6aR)-6-(6-Chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl acetate | 0.00100 mol, 369 mg | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl | C15H17ClN4O5
reactant | 4-fluorobenzylzinc chloride | 0.5 M | [Cl-].FC1=CC=C(C[Zn+])C=C1
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | Na2EDTA | 10 mL | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000050 mol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {(3aR,4R,6R,6aR)-6-[6-(4-Fluorobenzyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl acetate | 322 mg, 73% | C(C)(=O)OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)CC2=CC=C(C=C2)F | C22H23FN4O5
